**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT White Top view PLCC
* Matchcode:              WL-SWTP
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-03-02
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 3014_158301227  1  2
D1 1 2 led
.MODEL led D
+ IS=91.819E-12
+ N=4.0378
+ RS=11.199E-6
+ IKF=1.1025E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301230  1  2
D1 1 2 led
.MODEL led D
+ IS=91.819E-12
+ N=4.0378
+ RS=11.199E-6
+ IKF=1.1025E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301240  1  2
D1 1 2 led
.MODEL led D
+ IS=91.819E-12
+ N=4.0378
+ RS=11.199E-6
+ IKF=1.1025E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301250  1  2
D1 1 2 led
.MODEL led D
+ IS=91.819E-12
+ N=4.0378
+ RS=11.199E-6
+ IKF=1.1025E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301260  1  2
D1 1 2 led
.MODEL led D
+ IS=91.819E-12
+ N=4.0378
+ RS=11.199E-6
+ IKF=1.1025E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301227A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4944
+ RS=3.0032
+ IKF=12.971
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301230A  1  2
D1 1 2 led
.MODEL led D
+ IS=12.191E-21
+ N=2.5089
+ RS=3.9815
+ IKF=153.74
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301240A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.041E-21
+ N=2.4504
+ RS=2.0038
+ IKF=35.169E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301250A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4382
+ RS=2.6416
+ IKF=12.576
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_158301260A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4382
+ RS=2.6416
+ IKF=12.576
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3022_158302227  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 3022_158302230  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 3022_158302240  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 3022_158302250  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 3022_158302260  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 3030_158303227A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94754
+ IKF=14.901
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt 3030_158303230A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt 3030_158303240A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt 3030_158303250A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt 3030_158303260A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563427  1  2
D1 1 2 led
.MODEL led D
+ IS=441.24E-6
+ N=5
+ RS=1.8266
+ IKF=6.5223E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563430  1  2
D1 1 2 led
.MODEL led D
+ IS=441.24E-6
+ N=5
+ RS=1.8266
+ IKF=6.5223E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563440  1  2
D1 1 2 led
.MODEL led D
+ IS=441.24E-6
+ N=5
+ RS=1.8266
+ IKF=6.5223E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563450  1  2
D1 1 2 led
.MODEL led D
+ IS=441.24E-6
+ N=5
+ RS=1.8266
+ IKF=6.5223E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563460  1  2
D1 1 2 led
.MODEL led D
+ IS=441.24E-6
+ N=5
+ RS=1.8266
+ IKF=6.5223E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=5.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563227A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4322
+ RS=2.0003
+ IKF=6.9861
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563230A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.4354
+ RS=1.6815
+ IKF=102.53
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5630_158563240A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4270
+ RS=1.9247
+ IKF=18.933
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563250A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4297
+ RS=1.8399
+ IKF=22.158
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563260A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4519
+ RS=1.8461
+ IKF=15.007
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******


































